US06770637B2
a) (RS)-{5-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-o-tolyl-pyridin-2-yl}-cyano-acetic acid ethyl ester
A mixture of 1.00 g (2.05 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide, 0.44 ml (4.1 mmol) ethyl cyanoacetate and 0.46 g (4.1 mmol) potassium tert-butoxide in 2 ml dimethyl sulfoxide was stirred at 100° C. over night. After cooling to room temperature 10 ml of a half-concentrated aqueous solution of ammonium chloride was added. The mixture was extracted with 3 portions of ethyl acetate. The combined organic extracts were washed with two portions of water, dried with sodium sulfate and concentrated to give 1.2 g of crude product. Flash chromatography afforded 0.681 g (58.8%) of the title compound as a yellow foam.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide | 2.05 mmol, 1.00 g | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)Cl)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17ClF6N2O
reactant | ethyl cyanoacetate | 4.1 mmol, 0.44 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium tert-butoxide | 4.1 mmol, 0.46 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (RS)-{5-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-o-tolyl-pyridin-2-yl}-cyano-acetic acid ethyl ester | 0.681 g, 58.8% | C(C)OC(C(C#N)C1=NC=C(C(=C1)C1=C(C=CC=C1)C)C(N(C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C28H23F6N3O3
